US05137895
4-Amino-5-chloro-N-(3-hydroxy-1-azabicyclo[2.2.2]octan-3-ylmethyl)-2-methoxythiobenzamide
4-Amino-5-chloro-N-(3-hydroxy-1-azabicyclo[2.2.2]octan-3-ylmethyl)2-methoxybenzamide is reacted with phosphorus pentasulfide and potassium sulfide using methods known to those skilled in the art to obtain the title compound.

reactant | 4-Amino-5-chloro-N-(3-hydroxy-1-azabicyclo[2.2.2]octan-3-ylmethyl)2-methoxybenzamide | NC1=CC(=C(C(=O)NCC2(CN3CCC2CC3)O)C=C1Cl)OC | C16H22ClN3O3
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | potassium sulfide | [S-2].[K+].[K+]
product | 4-Amino-5-chloro-N-(3-hydroxy-1-azabicyclo[2.2.2]octan-3-ylmethyl)-2-methoxythiobenzamide | NC1=CC(=C(C(=S)NCC2(CN3CCC2CC3)O)C=C1Cl)OC | C16H22ClN3O2S
